US08350044B2
Preparation of (4-bromo-2-pyridin-3-yl-thiazol-5-yl)-methyl-carbamic acid tert-butyl ester (Compound 242)
To a solution of methyl-(2-pyridin-3-yl-thiazol-5-yl)-carbamic acid tert-butyl ester (100 mg, 0.34 mmol) in acetonitrile (2 mL) was added N-bromosuccinimide (122 mg, 0.68 mmol) in one portion and the reaction mixture was stirred for 1 h. The reaction mixture was concentrated and the crude product was purified by silica gel chromatography (0 to 100% ethyl acetate/hexanes) to give the desired product as a white solid (81 mg, 64%): mp 88-91°C.; IR (KBr) 1715 cm−1; 1H NMR (300 MHz, CDCl3) δ 9.11 (s, 1H), 8.70 (d, J=4.2 Hz, 1H), 8.28-8.17 (m, 1H), 7.42 (dd, J=8.1, 4.8 Hz, 1H), 3.27 (s, 3H), 1.48 (s, 9H); ESIMS m/z 372 (M+2).

reactant | methyl-(2-pyridin-3-yl-thiazol-5-yl)-carbamic acid tert-butyl ester | 0.34 mmol, 100 mg | C(C)(C)(C)OC(N(C1=CN=C(S1)C=1C=NC=CC1)C)=O | C14H17N3O2S
reactant | N-bromosuccinimide | 0.68 mmol, 122 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | (4-bromo-2-pyridin-3-yl-thiazol-5-yl)-methyl-carbamic acid tert-butyl ester | 81 mg, 64% | C(C)(C)(C)OC(N(C)C1=C(N=C(S1)C=1C=NC=CC1)Br)=O | C14H16BrN3O2S
